US05183820
2,2,2-Trifluoro-N-[2-(7-fluoro-1-methyl-1H-indol-2-yl)ethyl]acetamide
(E)-7-Fluoro-1-methyl-2-(2-nitroethenyl)-1H-indole (1.2 g) in dry THF (40 ml) was added slowly to a stirred suspension of lithium aluminium hydride (1.0 g) in dry THF (40 ml) under nitrogen and the mixture was stirred overnight at room temperature. Another portion of lithium aluminium hydride (200 mg) was added, and the mixture was stirred for a further 18 h. 10 % Aqueous THF (10 ml) was added slowly and the mixture was stirred for 30 min. Magnesium sulphate (20 g) was added, the mixture was filtered, and the filter cake was washed with ethyl acetate (100 ml). The combined filtrates were evaporated in vacuo to leave a gum which was dissolved in dichloromethane (100 ml). Triethylamine (5 ml) was added, and the mixture was cooled to 0°. Trifluoroacetic anhydride (1 ml) was added dropwise and the resulting mixture was stirred for 1 h. The mixture was diluted with dichloromethane (100 ml), washed with 8 % aqueous sodium bicarbonate solution (2×100 ml), dried and the solvent removed in vacuo to leave a gum. This was purified by FCC eluting with hexane:ether (2:1) to give the title compound (293 mg) as a solid, m.p. 108.5°-109.5°.

reactant | (E)-7-Fluoro-1-methyl-2-(2-nitroethenyl)-1H-indole | 1.2 g | FC=1C=CC=C2C=C(N(C12)C)\C=C\[N+](=O)[O-] | C11H9FN2O2
reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 200 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Magnesium sulphate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 2,2,2-Trifluoro-N-[2-(7-fluoro-1-methyl-1H-indol-2-yl)ethyl]acetamide | 293 mg | FC(C(=O)NCCC=1N(C2=C(C=CC=C2C1)F)C)(F)F | C13H12F4N2O
